US07897595B2
A mixture of 3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol (615 mg, 1.54 mmol), allyl bromide (1.33 ml, 15.4 mmol), Ag2CO3 (504 mg, 1.83 mmol) and CHCl3 (35 ml) was stirred under exclusion of light for 4 d at ambient temperature. The reaction mixture was diluted with EtOAc (100 ml) and filtered. The filtrate was concentrated in vacuo and purified by column chromatography rendering 445 mg (66%) of 2-(allyloxy)-3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.82 (2×s, 1H), 6.18 (dddd, 1H), 5.48 (m, 1H), 5.27 (m, 1H), 4.87 (m, 2H), 4.16-3.01 (m, 7H), 1.32 (2× d, 3H) ppm. A mixture of 2-(allyloxy)-3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (145 mg, 329 μmol), K2CO3 (150 mg) and MeOH (6 ml) was heated for 1 h at 60° C. The reaction mixture was concentrated in vacuo and purified by column chromatography to give 56.3 mg (50%) of 2-(allyloxy)-3-iodo-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.78 (s, 1H), 6.08 (dddd, 1H), 5.46 (ddd, 1H), 5.25 (ddd, 1H), 4.86 (m, 2H), 3.20-3.02 (m, 5H), 2.98 (m, 1H), 2.78 (m, 1H), 1.33 (d, 3H) ppm.

reactant | 3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol | 1.54 mmol, 615 mg | IC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1O | C12H12F3IN2O2
reactant | allyl bromide | 15.4 mmol, 1.33 ml | C(C=C)Br | C3H5Br
reactant | 2-(allyloxy)-3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 329 μmol, 145 mg | C(C=C)OC=1C(=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1)I | C15H16F3IN2O2
reactant | K2CO3 | 150 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 6 ml | CO | CH4O
solvent | CHCl3 | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(allyloxy)-3-iodo-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 56.3 mg, 50% | C(C=C)OC=1C(=CC2=C(CCNCC2C)N1)I | C13H17IN2O
